US06310201B1
After 19 hrs of reaction, 0.36% of 7-TES-taxol remained in this mixture. After 24 hrs, 7-TES-taxol and 10-desacetyl-taxol were not present (impurity index II<0.04%) in the reaction mixture. The solution was then diluted with ethyl acetate (1 L) and washed with 1N HCl (800 ml×2). The combined aqueous layer was extracted with ethyl acetate (400 ml×1). The organic layers were combined and washed with saturated aqueous sodium bicarbonate solution (800 ml×5), brine (300 ml×1), dried over sodium sulfate, filtered and concentrated to give 17.46 g (˜100%) of crude taxol as a white solid. The HPLC HI for the crude taxol obtained above was 98.7%. The yield is uncorrected.

reactant | 10-desacetyl-taxol | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@](C3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C5=CC=CC=C5)NC(=O)C6=CC=CC=C6)O)O)OC(=O)C7=CC=CC=C7)(CO4)OC(=O)C)O)C)O | C45H49NO13
reactant | ethyl acetate | 1 L | C(C)(=O)OCC | C4H8O2
product | taxol | 17.46 g, ~100% | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C=5C=CC=CC5)NC(=O)C=6C=CC=CC6)O)O)OC(=O)C=7C=CC=CC7)(CO4)OC(=O)C)O)C)OC(=O)C | C47H51NO14
